US06703425B2
Preparation of 4-(3-Aminopropyl)-2-fluorobenzenecarbonitrile
Scheme IIIb, step B: N-[3-(4-Cyano-3-fluorophenyl)propyl](phenylmethoxy)carboxamide (2 g, 6.4 mmol) and 10% palladium on carbon (0.5 g, 25 mole %) combined and hydrogenation was carried out in a manner analogous to the procedure described in example 6 to provide the intermediate title compound, 4-(3-aminopropyl)2-fluorobenzenecarbonitrile, (1.1 g, 96%) as a colorless oil. Electron spray M.S. 179 (M*+H).

reactant | N-[3-(4-Cyano-3-fluorophenyl)propyl](phenylmethoxy)carboxamide | 6.4 mmol, 2 g | C(#N)C1=C(C=C(C=C1)CCCNC(=O)OCC1=CC=CC=C1)F | C18H17FN2O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-(3-aminopropyl)2-fluorobenzenecarbonitrile | 1.1 g, 96% | NCCCC1=CC(=C(C=C1)C#N)F | C10H11FN2
